US07557103B2
B. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-{2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl}imidazo[1,2-b]pyridazine
A mixture containing 2,6-dimethyl-imidazo[1,2-b]pyridazine (0.44 g, 2.99 mmol), 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (1.03 g, 2.99 mmol), Pd(OAc)2 (34 mg, 0.15 mmol), PPh3 (79 mg, 0.299 mmol), Cs2CO3 (1.95 g, 6.0 mmol) in DMF (50 mL) is stirred under N2 at 130-140° C. overnight. The reaction mixture is cooled, diluted with EtOAc (300 mL), washed with H2O (3×100 mL); dried (Na2SO4); filtered and concentrated. Purification of the resulting crude material by chromatography yields the title compound (0.37 g, 1.02 mmol, 34%). 1H NMR (CDCl3): δ 0.92 (t, J=7.1 Hz, 6H), 1.80-1.95 (m, 4H), 2.43 (s, 3H), 2.44 (s, 3H), 2.46 (s, 3H), 2.50 (s, 3H), 3.35-3.43 (m, 1H), 6.69 (s, 1H), 6.92 (d, J=9.2 Hz, 1H), 7.82 (d, J=1H) ppm. ES-MS (m/z): calcd for C21H26N6 (M+H)+: 363.5. found: 363.3.

reactant | 2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.99 mmol, 0.44 g | CC=1N=C2N(N=C(C=C2)C)C1 | C8H9N3
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 2.99 mmol, 1.03 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | PPh3 | 0.299 mmol, 79 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | Cs2CO3 | 6.0 mmol, 1.95 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 0.15 mmol, 34 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-{2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl}imidazo[1,2-b]pyridazine | 1.02 mmol, 0.37 g, 34% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2N=C(C=C1)C)C | C21H26N6
